US07524847B2
4-(9-Methyl-8-oxo-8,9-dihydro-7H-purin-6-yl)-piperazine-1-carboxylic acid t-butyl ester
Sodium acetate (0.168 g) and sodium bicarbonate (0.100 g) were added to a solution of 4-(8-chloro-9-methyl-9H-purin-6-yl)-piperazine-1-carboxylic acid t-butyl ester (0.353 g) in dimethylsulfoxide (5 mL). This was then heated at 135° C. for 64 hours. The reaction solution was filtered, and was directly loaded onto a column for purification by reverse phase high performance liquid chromatography to give the title compound (0.179 g).

reactant | Sodium acetate | 0.168 g | C(C)(=O)[O-].[Na+]
reactant | sodium bicarbonate | 0.100 g | C([O-])(O)=O.[Na+]
reactant | 4-(8-chloro-9-methyl-9H-purin-6-yl)-piperazine-1-carboxylic acid t-butyl ester | 0.353 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2N=C(N(C2=NC=N1)C)Cl | C15H21ClN6O2
solvent | dimethylsulfoxide | 5 mL | CS(=O)C | C2H6OS
product | 4-(9-Methyl-8-oxo-8,9-dihydro-7H-purin-6-yl)-piperazine-1-carboxylic acid t-butyl ester | 0.179 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2NC(N(C2=NC=N1)C)=O | C15H22N6O3
